US05854268
To a cooled (0° C.) and stirred solution of 4-aminobenzyl cyanide (2.38 g, 18.04 mmol) in anhydrous dichloromethane (30 ml) was added anhydrous triethylamine (7.54 ml, 54.12 mmol) followed by acetic anhydride (2.56 ml, 27.06 mmol) under nitrogen. The mixture was allowed to warm to room temperature and it was stirred for 18 h before it was diluted with ethyl acetate (150 ml) and-washed with 10% aqueous sodium bicarbonate (100 ml), 2M hydrochloric acid (50 ml), brine (50 ml), then dried (MgSO4) and concentrated to give 4-(acetylamino)benzyl cyanide as an orange solid. The crude nitrile (2.8 g) was dissolved in absolute ethanol (200 ml) and chloroform (4 ml) and it was hydrogenated at 50 psi over platinum (IV) oxide for 16 h. The catalyst was filtered off, washed with ethanol and the filtrate was concentrated under vacuum. The residue was dissolved in 2M sodium hydroxide (30 ml) and the product was extracted with dichloromethane (4×150 ml), then dried (Na2SO4) and concentrated. Flash chromatography of the residue (silica gel, dichloromethane/methanol/ammonia, 85:15:1.5) gave 2.3 g (80%) of the title compound as a yellow solid. δ (360 MHz, CDCl3) 2.16 (3H, s), 2.71 (2H, t, J=6.8 Hz), 2.94 (2H, t, J=6.8 Hz), 7.14 (2H, d, J=8.3 Hz), 7.26 (1H, br s), 7.41 (2H, d, J=8.3 Hz).

reactant | 4-aminobenzyl cyanide | 18.04 mmol, 2.38 g | NC1=CC=C(CC#N)C=C1 | C8H8N2
reactant | triethylamine | 54.12 mmol, 7.54 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 27.06 mmol, 2.56 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 4-(acetylamino)benzyl cyanide | C(C)(=O)NC1=CC=C(CC#N)C=C1 | C10H10N2O
